US08604061B2
In analogy to example 1b (S)-2-amino-4-phenyl-pentan-1-ol was reacted with cyanogen bromide to give (S)-4-(2-phenyl-propyl)-4,5-dihydro-oxazol-2-ylamine. Off-white waxy solid.

reactant | (S)-2-amino-4-phenyl-pentan-1-ol | N[C@H](CO)CC(C)C1=CC=CC=C1 | C11H17NO
reactant | cyanogen bromide | N#CBr | CBrN
product | (S)-4-(2-phenyl-propyl)-4,5-dihydro-oxazol-2-ylamine | C1(=CC=CC=C1)C(C[C@@H]1N=C(OC1)N)C | C12H16N2O
